US06114361
Step A: (5R)-3-Bromo-5-(tert-butyl-dimethylsilanyloxymethyl)-2-oxo-2,5-dihydropyrrole-1-carboxylic acid tert-butyl ester
A solution of 2-(tert-butyldimethylsilanyloxymethyl)-5-oxopyrrolidine-l-carboxylic acid tert-butyl ester (16.5 grams, 50 mmol) in tetrahydrofuran (800 mL) was cooled in bath at -78° C. A 1M solution of lithium bis(trimethylsilyl)amide in tetrahydrofuran (100 mL, 100 mmol) was added slowly. After stirring for 2 hours, a solution of phenylselenylbromide (14.16 grams, 60 mmol) in tetrahydrofuran (100 mL) was added and, after 15 minutes, a solution of 1,2-dibromotetrachloroethane (19.5 grams, 60 mmol) in tetrahydrofuran (100 mL) was added. The reaction mixture was stirred for an additional 1.5 hours while cooling at -78° and was quenched by addition of saturated ammonium chloride solution. Water and diethyl ether were added. The aqueous phase was separated and extracted with diethyl ether. The combined organic layers were concentrated to an orange oil which was dissolved in methylene chloride (1000 mL). A 30% w/v aqueous solution of hydrogen peroxide (20 mL) was added and the mixture was stirred vigorously overnight. Water (50 mL) was added. The aqueous layer was separated and extracted with methylene chloride. The combined organic layers were dried over magnesium sulfate and concentrated to an orange oil. The title compound (12.0 grams, 59%) was isolated by flash chromatography on silica gel eluting first with a 1:1 mixture of hexane and methylene chloride and then with methylene chloride alone.

reactant | 2-(tert-butyldimethylsilanyloxymethyl)-5-oxopyrrolidine-l-carboxylic acid tert-butyl ester | 50 mmol, 16.5 grams | C(C)(C)(C)OC(=O)N1C(CCC1=O)CO[Si](C)(C)C(C)(C)C | C16H31NO4Si
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | phenylselenylbromide | 60 mmol, 14.16 grams | C1(=CC=CC=C1)[Se]Br | C6H5BrSe
reactant | 1,2-dibromotetrachloroethane | 60 mmol, 19.5 grams | BrC(C(Br)(Cl)Cl)(Cl)Cl | C2Br2Cl4
solvent | tetrahydrofuran | 800 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mmol, 100 mL | O1CCCC1 | C4H8O
product | (5R)-3-Bromo-5-(tert-butyl-dimethylsilanyloxymethyl)-2-oxo-2,5-dihydropyrrole-1-carboxylic acid tert-butyl ester | 12.0 grams, 59% | C(C)(C)(C)OC(=O)N1C(C(=C[C@@H]1CO[Si](C)(C)C(C)(C)C)Br)=O | C16H28BrNO4Si
